US07026491B2
NaH (1.94 g, 60%) is added to the solution of ethyl acetoacetate (6.02 g) in THF (100 ml) at 0° C. under nitrogen atmosphere. The reaction mixture is stirred for 15 minutes at the temperature and 3-nitrobenzylbromide (10 g) is added. The reaction mixture is stirred at room temperature overnight. The reaction mixture is poured into saturated NH4Cl aq. and extracted with EtOAc twice. The combined organic extract is washed with brine and dried over MgSO4. Concentration under reduced pressure gives the residue which is purified over column chromatography to afford ethyl 2-(3-nitrobenzyl)-acetoacetate (12 g).

reactant | NaH | 1.94 g | [H-].[Na+]
reactant | ethyl acetoacetate | 6.02 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 3-nitrobenzylbromide | 10 g | [N+](=O)([O-])C=1C=C(CBr)C=CC1 | C7H6BrNO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | ethyl 2-(3-nitrobenzyl)-acetoacetate | 12 g | [N+](=O)([O-])C=1C=C(CC(C(=O)OCC)C(=O)C)C=CC1 | C13H15NO5
